US08604032B2
To a solution of 5-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (E-2) (2.33 g, 10.0 mmol, 1.0 eq) in anhydrous THF (100 mL) at −78° C. under argon, n-BuLi solution (2.5 M in THF, 8.8 mL, 22.0 mmol, 2.2 eq) is added dropwise (over 10 min). The resulting mixture is stirred at −78° C. for 1 h and then DMF (2.0 g, 11.0 mmol, 1.1 eq) is added dropwise (over 10 min). The mixture is stirred at −78° C. for an additional 30 min and then stirred at RT overnight. The reaction mixture is quenched with H2O (50 mL) and then concentrated in vacuo. The residue is triturated with saturated aqueous NH4Cl solution. The solid is collected by filtration, rinsed with ethyl acetate, and dried in vacuo to afford the product, 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carbaldehyde (E-3).

reactant | 5-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 10.0 mmol, 2.33 g, 1.0 eq | BrC1=CNC=2N=CN=C(C21)Cl | C6H3BrClN3
reactant | n-BuLi | 22.0 mmol, 2.5 M, 8.8 mL, 2.2 eq | [Li]CCCC
reactant | DMF | 11.0 mmol, 2.0 g, 1.1 eq | CN(C)C=O | C3H7NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-5-carbaldehyde | ClC=1C2=C(N=CN1)NC=C2C=O | C7H4ClN3O
